US06617304B1
A 31.4 g (60.0 mmol) portion of 3,7,11,15-tetramethyl-2-hexadecenyl 14-hydroxytetradecanoate, 5.9 g (20 mmol) of 3,7,11,15-tetramethyl-2-hexadecenol and 0.5 g of magnesium oxide were put into the same apparatus of Inventive Example 1 and the reaction was carried out under conditions of 190 to 220° C. and 1.3 kPa to 130 Pa to obtain 33.5 g of a colorless and transparent distillate 6.5 hours thereafter. This distillate contained 12.1 g of cyclotetradecanolide (yield 89%) and 18.9 g of 3,7,11,15-tetramethyl-2-hexadecenol (recovery ratio 80%).

reactant | 3,7,11,15-tetramethyl-2-hexadecenyl 14-hydroxytetradecanoate | OCCCCCCCCCCCCCC(=O)OCC=C(CCCC(CCCC(CCCC(C)C)C)C)C | C34H66O3
reactant | 3,7,11,15-tetramethyl-2-hexadecenol | 20 mmol, 5.9 g | CC(=CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H40O
reactant | magnesium oxide | 0.5 g | [O-2].[Mg+2]
reactant | 3,7,11,15-tetramethyl-2-hexadecenol | 18.9 g | CC(=CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H40O
product | cyclotetradecanolide | 12.1 g, yield 89% | C1CCCCCCC(=O)OCCCCCC1 | C14H26O2
